US06313294B1
As an illustration of the improved synthesis, 1,4-benzodioxan-2-ethylcarboxylate and piperazine were reacted to form N-(1,4-benzodioxan-2-ylcarbonyl)piperazine. Since piperazine includes secondary amines, it is known that the amidization reaction can proceed only in the presence of a solvent and catalyst, e.g., a Lewis acid, strong base, or enzyme. Therefore, the solvent, e.g, THF, acetonitrile, benzene, toluene, or chlorine-containing solvent, was used to dissolve 1,4-benzodioxan-2-ethylcarboxylate and piperazine. The reactants were dissolved in anhydrous THF and potassium carbonate was added to catalyze the reaction. The mixture was stirred under nitrogen and heated to 110° C. After extraction and purification, it was found that the yield of 1-(1,4-benzodioxan-2-yl-carbonyl)piperazine (compound 1) was very low. The yield was less than 5%. Most of the product was 1,4-benzodioxan-2-carboxylic acid, which was obtained from hydrolysis of the reactant 1,4-benzodioxan-2-ethyl carboxylate.

reactant | 1,4-benzodioxan 2-ethylcarboxylate | O1CCOC2=C1C=CC=C2.CCC(=O)[O-]
reactant | piperazine | N1CCNCC1 | C4H10N2
product | N-(1,4-benzodioxan-2-ylcarbonyl)piperazine | yield was less than 5% | O1C(COC2=C1C=CC=C2)C(=O)N2CCNCC2 | C13H16N2O3
